US04136256
Preparation of p-hexadecylamino-N-(p-nitrophenylsulfonyl)-benzamide
A solution of 40.4 g. of p-nitrobenzenesulfonamide in 250 ml. of dry dimethylacetamide is added dropwise, over 30 minutes, to a stirred and cooled (water bath) suspension of 5.5 g. of sodium hydride in 100 ml. of dry dimethylacetamide. The resulting dark solution is stirred for a further 30 minutes at room temperature. In the meantime, a mixture of 36.2 g. of p-hexadecylaminobenzoic acid in 1200 ml. of methylene chloride, 300 ml. of dimethoxyethane, and 40 ml. of thionyl chloride is refluxed for 1 hour and 15 minutes. The solution is evaporated to an oil which is co-evaporated twice with added dioxane to remove excess thionyl chloride. The resulting amber oil is dissolved in 75 ml. of dry dimethylacetamide and the solution is added, over approximately 3 minutes, to the previously prepared solution of sodium p-nitrobenzenesulfonamide and cooled in an ice bath. After the addition, the ice bath is removed and the solution is stirred at room temperature for one hour. The solution is filtered through a bed of diatomaceous earth and the filtrate is poured into 2.1 of water to give a suspension. Saturated sodium chloride solution (250 ml.) followed by sodium chloride crystals (100 g.) is added to produce a finely divided precipitate. The mixture is filtered through a bed of diatomaceous earth. The product is washed with water and partially dried on the filter to give a yellow paste. The paste is dissolved in a mixture of 250 ml. of methylene chloride, 250 ml. of ethyl acetate, and 250 ml. of acetone. The solution is filtered through a bed of diatomaceous earth, a small aqueous layer separated, and the organic phase dried over anhydrous sodium sulfate. The solution is filtered and the filtrate is evaporated to an amber glass which is crystallized from 150 ml. of 1:1 ether:hexane. The product was recrystallized three times from absolute ethanol to provide 14.75 g. of the title compound as bright yellow crystals, melting point 129.5°-131° C.

reactant | p-nitrobenzenesulfonamide | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)N | C6H6N2O4S
reactant | sodium hydride | [H-].[Na+]
reactant | p-hexadecylaminobenzoic acid | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)O)C=C1 | C23H39NO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | sodium chloride | 250 ml | [Cl-].[Na+]
reactant | sodium chloride | 100 g | [Cl-].[Na+]
solvent | acetone | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | dimethoxyethane | C(OC)COC | C4H10O2
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
solvent | water | O | H2O
product | p-hexadecylamino-N-(p-nitrophenylsulfonyl)-benzamide | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)NS(=O)(=O)C2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C29H43N3O5S
